US08865726B2
To a solution of (S)-4-(4-fluorophenyl)oxazolidin-2-one (0.43 g, 2.4 mmol) in DMF (10 mL) was added sodium hydride (0.095 g, 2.4 mmol) and the reaction stirred at ambient temperature for 30 minutes. 3-Bromo-5-chloropyrazolo[1,5-a]pyrimidine (0.50 g, 2.2 mmol) was added and the reaction was stirred for 2 hours at ambient temperature. The reaction mixture was poured into water (100 mL) and extracted into ether (2×100 mL). The organic layer was washed with brine (2×20 mL), dried over MgSO4 and concentrated under vacuum. The crude material was purified by silica gel chromatography, eluting with 2% EtOAc/DCM to yield (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(4-fluorophenyl)oxazolidin-2-one (0.35 g, 43%).

reactant | (S)-4-(4-fluorophenyl)oxazolidin-2-one | 2.4 mmol, 0.43 g | FC1=CC=C(C=C1)[C@@H]1NC(OC1)=O | C9H8FNO2
reactant | sodium hydride | 2.4 mmol, 0.095 g | [H-].[Na+]
reactant | 3-Bromo-5-chloropyrazolo[1,5-a]pyrimidine | 2.2 mmol, 0.50 g | BrC=1C=NN2C1N=C(C=C2)Cl | C6H3BrClN3
reactant | water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-4-(4-fluorophenyl)oxazolidin-2-one | 0.35 g, 43% | BrC=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=CC=C(C=C2)F)=O | C15H10BrFN4O2
